US04005217
A mixture of N-(2-nitrophenyl)-2-chloroacetamide (8.6 g), 2,6-cis-dimethylmorpholine (9.2 g) and ethanol (100 ml) was heated together under reflux for 3 hours. The ethanol was evaporated off and the residue treated with water (100 ml). The resultant suspension was filtered and the solid recrystallised from ethanol to give N-(2-nitrophenyl)-2-(2,6-cis-dimethylmorpholino)acetamide (8.5 g), m.p. 127°-129° C. (with decomposition) which was then dissolved in methanol (100 ml). Platinum oxide (0.3 g) was added to the solution which was then shaken in an atmosphere of hydrogen at atmospheric pressure and laboratory temperature until 1.9 litres of hydrogen had been absorbed. The mixture was filtered and the ethanol evaporated off to give a white solid which was recrystallised from water to give N-(2-aminophenyl)-2-(2,6-cis-dimethylmorpholino)acetamide (5.4 g), m.p. 104°-106° C. (with decomposition).

reactant | N-(2-nitrophenyl)-2-chloroacetamide | 8.6 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(CCl)=O | C8H7ClN2O3
reactant | 2,6-cis-dimethylmorpholine | 9.2 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-nitrophenyl)-2-(2,6-cis-dimethylmorpholino)acetamide | 8.5 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(CN1C[C@@H](O[C@@H](C1)C)C)=O | C14H19N3O4
